US09061060B2
Preparation of 5-(5-bromo-2-chlorobenzyl)-1,3-difluoro-2-methoxybenzene (98c)
To a solution of (5-bromo-2-chlorophenyl)(3,5-difluoro-4-methoxy-phenyl)methanone (629 mg, 1.7 mmol) in trifluoroacetic acid (6 mL) was added triethylsilane (1.1 mL, 6.9 mmol), and the mixture was stirred for 10 minutes at 25° C. Trifluoromethane-sulfonic acid (50 μL) was added, and the reaction was briefly boiled. The mixture was stirred overnight at 25° C. before the volatiles were removed under reduced pressure. The residue was dissolved in ethyl acetate (20 mL) and was washed with saturated sodium carbonate and brine, dried over sodium sulfate, and concentrated to give a crude product. 573 mg of pure product was obtained by column chromatography (94.8% yield).

reactant | (5-bromo-2-chlorophenyl)(3,5-difluoro-4-methoxy-phenyl)methanone | 1.7 mmol, 629 mg | BrC=1C=CC(=C(C1)C(=O)C1=CC(=C(C(=C1)F)OC)F)Cl | C14H8BrClF2O2
reactant | triethylsilane | 6.9 mmol, 1.1 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Trifluoromethane-sulfonic acid | 50 μL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(5-bromo-2-chlorobenzyl)-1,3-difluoro-2-methoxybenzene | 573 mg, 94.8% yield | BrC=1C=CC(=C(CC=2C=C(C(=C(C2)F)OC)F)C1)Cl | C14H10BrClF2O
